US08455500B2
<Step 1> Synthesis of 4-(5-bromo-3,4-dimethylpyridin-2-yl)oxy-2-methylbutan-2-ol
According to the method of (Example 36) <Step 1>, from 5-bromo-3,4-dimethylpyridin-2-ol (3.0 g) and 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate (4.2 g), the subject compound (2.1 g) was obtained as a white solid.

reactant | 5-bromo-3,4-dimethylpyridin-2-ol | 3.0 g | BrC=1C(=C(C(=NC1)O)C)C | C7H8BrNO
reactant | 3-hydroxy-3-methylbutyl 4-methylbenzenesulfonate | 4.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(C)(C)O | C12H18O4S
product | 4-(5-bromo-3,4-dimethylpyridin-2-yl)oxy-2-methylbutan-2-ol | 2.1 g | BrC=1C(=C(C(=NC1)OCCC(C)(O)C)C)C | C12H18BrNO2
